US07253318B2
In analogy to the procedure described in Example 3b), the alkylation of 2-(4-hydroxy-phenoxy)-2,N-dimethyl-propionamide with 3-fluoro-benzylbromide in 2-butanone using potassium carbonate as the base yielded the 2-[4-(3-fluoro-benzyloxy)-phenoxy]-2,N-dimethyl-propionamide as an brown oil; MS: m/e=318 (M+H)+.

reactant | 2-(4-hydroxy-phenoxy)-2,N-dimethyl-propionamide | OC1=CC=C(OC(C(=O)NC)(C)C)C=C1 | C11H15NO3
reactant | 3-fluoro-benzylbromide | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone | CC(CC)=O | C4H8O
product | 2-[4-(3-fluoro-benzyloxy)-phenoxy]-2,N-dimethyl-propionamide | FC=1C=C(COC2=CC=C(OC(C(=O)NC)(C)C)C=C2)C=CC1 | C18H20FNO3
